US06900316B2
To a solution of 88 g (0.93 mol) of 4-aminopyridine in 1 L of tetrahydrofuran was added 21.2 g (2.67 mol) of lithium hydride. The reaction mixture was heated to 50° C. for 1 hour. To the stirred reaction mixture was added a solution of 318 g (0.89 mol) of 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one in 1.8 L of tetrahydrofuran. The reaction solution was heated at reflux for 24 hours, and then cooled to 50° C. The reaction mixture was diluted by the slow addition of a mixture of 500 mL of water and 1 L of 6N hydrochloric acid. The reaction mixture was cooled to 24° C. and stirred for 16 hours. The reaction mixture was further diluted by addition of 250 mL of acetonitrile and 200 mL of water, and stirring was continued for an additional 2 hours. The mixture was then filtered, and the filter cake was dried at 45° C. in vacuo for 12 hours to provide 360 g (92%) of 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride, mp 295-300° C. (dec). HPLC established the purity at 98%. Mass Spec (APCI) 439.89 m/z.

reactant | 4-aminopyridine | 0.93 mol, 88 g | NC1=CC=NC=C1 | C5H6N2
reactant | lithium hydride | 2.67 mol, 21.2 g | [H-].[Li+]
reactant | 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.89 mol, 318 g | CSC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C18H19N3O3S
reactant | hydrochloric acid | 6N, 1 L | Cl | ClH
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.8 L | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
product | 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 360 g, 92% | Cl.N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | InChI=1S/C22H21N5O3.ClH/c1-4-27-20-15(13-24-22(26-20)25-16-5-7-23-8-6-16)11-19(21(27)28)14-9-17(29-2)12-18(10-14)30-3;/h5-13H,4H2,1-3H3,(H,23,24,25,26);1H
